US09290454B2
CDI (21.45 mg, 0.132 mmol) was added to a stirred, room temperature mixture of 2-indanecarboxylic acid (17.88 mg, 0.110 mmol) in DMF (1 mL), and the mixture was stirred at room temperature for 2 h. tert-butyl 5-(2-(4-fluorophenyl)-6-(N′-hydroxycarbamimidoyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate (50 mg, 0.110 mmol) was added, and the resultant mixture was kept stirring at 100° C. for overnight. The reaction was checked with LCMS and starting material disappeared. The mixture was cooled to room temperature, precipitate formed, filtered and washed with water (20 mL), dried in vacuum oven to give tert-butyl 5-(6-(5-(2,3-dihydro-1H-inden-2-yl)-1,2,4-oxadiazol-3-yl)-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate (51 mg, 0.088 mmol) as a light tan solid.

reactant | CDI | 0.132 mmol, 21.45 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-indanecarboxylic acid | 0.110 mmol, 17.88 mg | C1C(CC2=CC=CC=C12)C(=O)O | C10H10O2
reactant | tert-butyl 5-(2-(4-fluorophenyl)-6-(N′-hydroxycarbamimidoyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 0.110 mmol, 50 mg | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2C=C1CCCCC(=O)OC(C)(C)C)C(N)=NO)=O | C25H28FN3O4
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-butyl 5-(6-(5-(2,3-dihydro-1H-inden-2-yl)-1,2,4-oxadiazol-3-yl)-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 0.088 mmol, 51 mg | C1C(CC2=CC=CC=C12)C1=NC(=NO1)C=1C=C2C=C(N(C(C2=CC1)=O)C1=CC=C(C=C1)F)CCCCC(=O)OC(C)(C)C | C35H34FN3O4
